US07071216B2
A solution of 5-fluro-2-nitrophenylamine (1 eq) in methylenechloride was treated with trifluoroacetic anhydride (1 eq) and stirred for 10 minutes at 0° C. The mixture was quenched with saturated sodium bicarbonate solution. The organic layer was separated and washed with water, brine, dried and evaporated. To the solution of the trifluroacetamide (1 eq) in a mixture of toluene, acetonitrile and sodium hydroxide solution (50%) was added benzyltrimethylammonium chloride (1 eq) and dimethyl sulfate (1.2 eq). The biphasic mixture was stirred overnight at room temperature and evaporated. The mixture was taken up in ethyl acetate, washed with water, brine, dried and evaporated. The crude was purified by column chromatography eluting with 1:1 hexanes and ethyl acetate to afford (5-fluro-2-nitrophenyl)methylamine. MS: MH+=170.

reactant | 5-fluro-2-nitrophenylamine | 1 eq | FC=1C=CC(=C(C1)N)[N+](=O)[O-] | C6H5FN2O2
reactant | trifluoroacetic anhydride | 1 eq | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | trifluroacetamide | 1 eq | FC(C(=O)N)(F)F | C2H2F3NO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | dimethyl sulfate | 1.2 eq | S(=O)(=O)(OC)OC | C2H6O4S
solvent | methylenechloride | C(Cl)Cl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | benzyltrimethylammonium chloride | 1 eq | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | acetonitrile | C(C)#N | C2H3N
product | (5-fluro-2-nitrophenyl)methylamine | FC=1C=CC(=C(C1)CN)[N+](=O)[O-] | C7H7FN2O2
